### PR TITLE
[Merged by Bors] - feat(RingTheory/Radical): generalise and fill in TODOs

### PR DESCRIPTION
**Pull request by b-mehta**
- Generalise some lemmas from unique factorisation domains to unique factorisation monoids, with the additional consequence that they no longer require addition to be defined.
- Fill in TODOs for `radical (radical a) = radical a` and connecting `UFM.primeFactors` to `Nat.primeFactors`
- Style changes

The large-import is due to importing `IsRadical` for the definition of `radical`, and importing primality facts for natural numbers. The former is an obviously useful change to make, and the latter isn't necessary but the alternative is to have a separate file for radical on nat (which would be very short and a bit silly) or import RingTheory in Data/Nat, which would be undesirable.

Upstreamed from the [ABC-Exceptions project](https://github.com/b-mehta/abc-exceptions)

Co-authored-by: Arend Mellendijk <arend.mellendijk@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
This PR ended up doing more than it was originally intended to: if you'd like me to cut it up then just let me know!

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 1]
```diff
@@ -95,7 +95,7 @@ private theorem Polynomial.flt_catalan_deriv
   rcases Polynomial.abc
       (mul_ne_zero hCu hap) (mul_ne_zero hCv hbq) (mul_ne_zero hCw hcr)
       habp heq with nd_lt | dr0
-  · simp_rw [radical_mul habcp, radical_mul habp,
+  · simp_rw [radical_mul habcp.isRelPrime, radical_mul habp.isRelPrime,
```
Comment (ocfnash) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:98]: With this change in place we can drop `UniqueFactorizationDomain` from the `open` statement on line 30 above. Could you do this?

(GitHub UI won't let me suggest this because that line is currently untouched.)

File: Mathlib/RingTheory/Radical.lean [hunk 2]
```diff
@@ -110,120 +173,282 @@ theorem radical_dvd_self (a : M) : radical a ∣ a := by
...
+  match e with
+  | ~q(@radical _ $inst $inst' $inst'' $n) =>
+    have _ := ← synthInstanceQ q(Nontrivial $α)
+    assertInstancesCommute
+    return .nonzero q(radical_ne_zero)
+  | _ => throwError "not radical"
+
+example : 0 < radical 100 := by positivity
+
+end Mathlib.Meta.Positivity
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]: This looks fine but let's do it in a follow-up PR instead.

File: Mathlib/RingTheory/Radical.lean [hunk 3]
```diff
@@ -51,18 +60,67 @@ namespace UniqueFactorizationMonoid
...
 variable {M : Type*} [CancelCommMonoidWithZero M] [NormalizationMonoid M]
-  [UniqueFactorizationMonoid M]
+  [UniqueFactorizationMonoid M] {a b u : M}
 
 open scoped Classical in
 /-- The finite set of prime factors of an element in a unique factorization monoid. -/
 def primeFactors (a : M) : Finset M :=
   (normalizedFactors a).toFinset
 
+@[simp] lemma mem_primeFactors : a ∈ primeFactors b ↔ a ∈ normalizedFactors b := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]: No strong feelings but are you sure we want this to be `simp`?

Seems to be slightly at odds with having the definition of `primeFactors` in the first place.

File: Mathlib/RingTheory/Radical.lean [hunk 4]
```diff
@@ -51,18 +60,67 @@ namespace UniqueFactorizationMonoid
...
+  intro x hx y hy hxy
+  simp only [Finset.mem_coe, mem_primeFactors, mem_normalizedFactors_iff' ha₀] at hx hy
+  rw [hx.1.isRelPrime_iff_not_dvd]
+  contrapose! hxy
+  have : Associated x y := hx.1.associated_of_dvd hy.1 hxy
+  exact this.eq_of_normalized hx.2.1 hy.2.1
+
+theorem primeFactors_pow (a : M) {n : ℕ} (hn : n ≠ 0) : primeFactors (a ^ n) = primeFactors a := by
+  simp_rw [primeFactors, normalizedFactors_pow, Multiset.toFinset_nsmul _ _ hn]
+
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean:95]: Maybe worth also adding the following convenience version which will fire automatically in certain circumstances (including for concrete values of `n`):
```suggestion

@[simp]
theorem primeFactors_pow' (a : M) {n : ℕ} [NeZero n] : primeFactors (a ^ n) = primeFactors a :=
  primeFactors_pow a NeZero.out

```

File: Mathlib/RingTheory/Radical.lean [hunk 5]
```diff
@@ -51,18 +60,67 @@ namespace UniqueFactorizationMonoid
...
+lemma normalizedFactors_nodup (ha : IsRadical a) : (normalizedFactors a).Nodup := by
+  obtain rfl | ha₀ := eq_or_ne a 0
+  · simp
+  rwa [← squarefree_iff_nodup_normalizedFactors ha₀, ← isRadical_iff_squarefree_of_ne_zero ha₀]
+
+lemma primeFactors_val_eq_normalizedFactors (ha : IsRadical a) :
+    (primeFactors a).val = normalizedFactors a := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean:122]: What do you think about the following alternative:
```suggestion
lemma normalizedFactors_toFinset_eq_primeFactors [DecidableEq M] (ha : IsRadical a) :
    (normalizedFactors a).toFinset = primeFactors a := by
```
The motivation being that `Finset.val` is really an implementation detail whereas `Multiset.toFinset` is API.

File: Mathlib/RingTheory/Radical.lean [hunk 6]
```diff
@@ -51,18 +60,67 @@ namespace UniqueFactorizationMonoid
...
+  classical
+  rw [primeFactors, Multiset.toFinset_val, Multiset.dedup_eq_self]
+  exact normalizedFactors_nodup ha
+
+theorem primeFactors_mul_eq_union [DecidableEq M] (ha : a ≠ 0) (hb : b ≠ 0)  :
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean:128]: Is this true without the non-zero assumptions via `isRelPrime_zero_left` / `isRelPrime_zero_right` because units have no prime factors?
```suggestion
theorem primeFactors_mul_eq_union [DecidableEq M] :
```

File: Mathlib/RingTheory/Radical.lean [hunk 7]
```diff
@@ -51,18 +60,67 @@ namespace UniqueFactorizationMonoid
...
+  ext p
+  simp [mem_normalizedFactors_iff', ha, hb]
+
+/-- Relatively prime elements have disjoint prime factors (as finsets). -/
+theorem disjoint_primeFactors (hc : IsRelPrime a b) :
+    Disjoint (primeFactors a) (primeFactors b) := by
+  classical
+  exact Multiset.disjoint_toFinset.mpr (disjoint_normalizedFactors hc)
+
+theorem primeFactors_mul_eq_disjUnion (ha : a ≠ 0) (hb : b ≠ 0)
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]: As above: do we definitely need the non-zero assumptions?

File: Mathlib/RingTheory/Radical.lean [hunk 8]
```diff
@@ -71,36 +129,41 @@ the prime factors of `a`.
...
+lemma radical_associated (ha : IsRadical a) (ha' : a ≠ 0) :
+    Associated (radical a) a := by
+  rw [radical, ← Finset.prod_val, primeFactors_val_eq_normalizedFactors ha]
+  exact prod_normalizedFactors ha'
+
+/-- If `a` is a radical element, then it divides its radical. -/
+lemma _root_.IsRadical.dvd_radical (ha : IsRadical a) (ha' : a ≠ 0) : a ∣ radical a :=
+  (radical_associated ha ha').dvd'
+
+theorem radical_of_isUnit (h : IsUnit a) : radical a = 1 :=
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean:180]: Is this stronger version true?
```suggestion
theorem radical_eq_one_iff : radical a = 1 ↔ a = 0 ∨ IsUnit a := by
```
If so, can we add it instead?

File: Mathlib/RingTheory/Radical.lean [hunk 9]
```diff
@@ -110,120 +173,282 @@ theorem radical_dvd_self (a : M) : radical a ∣ a := by
...
+@[simp] theorem radical_ne_zero [Nontrivial M] : radical a ≠ 0 := by
   rw [radical, ← Finset.prod_val]
   apply Multiset.prod_ne_zero
   rw [primeFactors]
   simp only [Multiset.toFinset_val, Multiset.mem_dedup]
   exact zero_notMem_normalizedFactors _
 
+/--
+An irreducible `a` divides the radical of `b` if and only if it divides `b` itself.
+Note this generalises to radical elements `a`, see `dvd_radical_iff`.
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]:
```suggestion
Note this generalises to radical elements `a`, see `UniqueFactorizationMonoid.dvd_radical_iff`.
```
(for clickable docs)

File: Mathlib/RingTheory/Radical.lean [hunk 10]
```diff
@@ -110,120 +173,282 @@ theorem radical_dvd_self (a : M) : radical a ∣ a := by
...
+    · exact irreducible_of_normalized_factor i hi
+    · rintro rfl
+      simp only [normalizedFactors_zero, Multiset.notMem_zero] at hi
+  exact (prime_of_normalized_factor i hi).isRadical n p (this.trans ha)
+
+lemma squarefree_radical : Squarefree (radical a) := by
+  nontriviality M
+  exact isRadical_radical.squarefree (by simp [radical_ne_zero])
+
+lemma primeFactors_radical : primeFactors (radical a) = primeFactors a := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]:
```suggestion
@[simp] lemma primeFactors_radical : primeFactors (radical a) = primeFactors a := by
```

File: Mathlib/RingTheory/Radical.lean [hunk 11]
```diff
@@ -110,120 +173,282 @@ theorem radical_dvd_self (a : M) : radical a ∣ a := by
...
+lemma UniqueFactorizationMonoid.primeFactors_eq_natPrimeFactors :
+    primeFactors = Nat.primeFactors := by
+  ext n : 1
+  rw [primeFactors, Nat.factors_eq, Nat.primeFactors]
+  -- this convert is necessary because of the different DecidableEq instances
+  convert List.toFinset_coe _
+
+namespace Nat
+
+theorem radical_le_self {n : ℕ} (hn : n ≠ 0) : radical n ≤ n :=
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]: How about the slightly stronger:
```suggestion
@[simp] theorem radical_le_self_iff {n : ℕ} : radical n ≤ n ↔ 0 < n := by
```

File: Mathlib/RingTheory/Radical.lean [hunk 12]
```diff
@@ -110,120 +173,282 @@ theorem radical_dvd_self (a : M) : radical a ∣ a := by
...
+  Nat.le_of_dvd (by omega) radical_dvd_self
+
+theorem two_le_radical {n : ℕ} (hn : 2 ≤ n) : 2 ≤ radical n := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/Radical.lean]: How about instead:
```suggestion
@[simp] theorem radical_le_one_iff {n : ℕ} : radical n ≤ 1 ↔ n ≤ 1 := by
```

**Review by ocfnash — APPROVED** [review]
Thanks, this is very nice work and great to get all these gaps filled.

I note the non-trivial import change but that the affected file belongs only to the following graph:
```
RingTheory.Radical → RingTheory.Polynomial.Radical → NumberTheory.FLT.MasonStothers → NumberTheory.FLT.Polynomial
```
so I think we can accept this here.

I have left a bunch of minor suggestions, some are option but please at least try to apply those that are not. In particular the meta code should be PR'd separately (even though it looks fine).

bors d+

File: Mathlib/RingTheory/Radical.lean (hunk 6 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean:128]: No, because here I'm not assuming IsRelPrime: if a is 0 and b is 2 (and say M := Nat) then the LHS is empty but the RHS is {2}

File: Mathlib/RingTheory/Radical.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean:180]: I don't mind, but this lemma is something which I didn't touch and the github UI is being confusing! I'd personally prefer to leave it as is for now as opposed to deleting + deprecating an existing lemma

File: Mathlib/RingTheory/Radical.lean (hunk 10 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean]: Hmm, I considered this but I'm not sure, the lhs is a smaller set and in concrete situations I wonder if it's actually simpler? But perhaps concrete situations aren't the right thing to consider... so let's go with it and see what happens :D

File: Mathlib/RingTheory/Radical.lean (hunk 11 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean]: I think `radical_le_self` is the one that'll be most useful in practice, so it seems to me like the best option is just to have both? And similarly for `two_le_radical`: might as well just have both versions!

File: Mathlib/RingTheory/Radical.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean]: In this case you're correct, and we don't need them!

File: Mathlib/RingTheory/Radical.lean (hunk 10 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean]: added

File: Mathlib/RingTheory/Radical.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean:122]: I agree it's not ideal that Finset.val is exposed, but this is a genuinely different lemma: yours is true by definition! I'll try to find some other way of expressing this though...

Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean:122]: I can't see how to do it in a different way: the point here is that because `a` is radical, the `dedup` step in `toFinset` in the defn of `primeFactors` is doing nothing

File: Mathlib/RingTheory/Radical.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Radical.lean:180]: I added it anyway, without removing the older one.

**Comment by b-mehta** [comment]
Thanks for the review Oliver! I applied all the suggestions I could figure out how to sensibly do :)

bors merge
